US04591585
9.1 g of 1α-acetoxymethyl-17β-acetoxy-5α-androstan-3-one (mp 193°-194° C.) [prepared from 3,3-ethylenedioxyl-1-methylene-5α-androstan-17β-ol ("Naturwissenschaften" [Natural Sciences 51: 86 (1963)) by hydroboration, acetylation, and ketal cleavage] is dissolved in 90 ml of glacial acetic acid. To this solution is added dropwise 3.2 ml of bromine in 25 ml of glacial acetic acid, and the mixture is agitated for 10 minutes. After precipitation in ice water which contains sodium sulfite, the product is suctioned off, washed with water, and dried. 16.5 g of crude dibromide is stirred in 100 ml of dimethylformamide with 10 g of lithium bromide and 20 g of calcium carbonate for 3.5 hours at a bath temperature of 120° C. After cooling, the inorganic salts are suctioned off and washed with 150 ml of methanol. The filtrate is combined with 6 g of potassium hydroxide in 20 ml of water and stirred for 16 hours at room temperature. The reaction solution is poured into ice water, the product is suctioned off and dried. The crude 1-hydroxymethyl-17β-hydroxyandrosta-1,4-dien-3-one (7.5 g) is dissolved in 100 ml of dimethylformamide, combined with 1 g of lead diacetate and 15 ml of acetic anhydride and stirred for 6.5 hours at room temperature. After precipitating in water and removal of the product by vacuum filtering, oxidation is carried out with chromic acid as described in Example 1. Recrystallization from acetone/hexane yields 2.3 g of 1-acetoxymethylandrosta-1,4-diene-3,17-dione, mp 121°-123° C.

reactant | 1α-acetoxymethyl-17β-acetoxy-5α-androstan-3-one | 9.1 g | C(C)(=O)OC[C@H]1CC(C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)OC(C)=O)=O | C24H36O5
reactant | bromine | 3.2 ml | BrBr | Br2
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-acetoxymethylandrosta-1,4-diene-3,17-dione | 2.3 g | C(C)(=O)OCC1=CC(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)=O | C22H28O4
